US04060636
To a suspension of 3-(3-carbomethoxythioureido)-4-aminobenzophenone (3.0 g.) in acetone (100 ml.) is added phenyl isocyanate (1.08 g.). The reaction mixture is refluxed for 11/2 hours and then allowed to stand at room temperature overnight. The precipitate is collected, washed with ether and dried to afford 2.65 g. (65% yield) of 3-(3-carbomethoxythioureido)-4-(3-phenylureido)benzophenone as a white solid, m.p. 212° C., dec.

reactant | 3-(3-carbomethoxythioureido)-4-aminobenzophenone | 3.0 g | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N)=S | C16H15N3O3S
reactant | phenyl isocyanate | 1.08 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(3-carbomethoxythioureido)-4-(3-phenylureido)benzophenone | 65% yield | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NC(=O)NC1=CC=CC=C1)=S | C23H20N4O4S
